US09399636B2
Step 2: 2-((6-chloro-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile
To a 25 mL round-bottomed flask charged with 2,6-dichloro-4-(tetrahydro-2H-pyran-4-yl)pyridine (1.20 g, 5.20 mmol, 1.00 equiv), 2-aminopyridine-4-carbonitrile (620 mg, 5.20 mmol, 1.00 equiv), cesium carbonate (2.40 g, 7.20 mmol, 1.40 equiv), 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (170 mg, 0.260 mmol, 0.0500 equiv), and tris(dibenzylidineacetone)dipalladium(0) (120 mg 0.130 mmol, 0.0250 equiv) was added 1,4-dioxane (10 mL) under nitrogen atmosphere. The reaction was then heated to 80° C. for 16 h after which the mixture was cooled to room temperature, diluted with ethyl acetate (15 mL) and washed with water (2×15 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. Purification by flash column chromatography (40:60 ethyl acetate/heptane) afforded the desired product as a yellow solid (892 mg, 51% yield). 1H NMR (400 MHz, DMSO-d6), δ: 10.38 (s, 1H), 8.49 (d, J=5.3 Hz, 1H), 7.94 (s, 1H), 7.63 (s, 1H), 7.34-7.23 (dd, J=4.0, 2.0 Hz, 1H), 6.98 (d, J=1.1 Hz, 1H), 3.95 (dd, J=11.9, 4.0 Hz, 2H), 3.44 (td, J=11.9, 2.4 Hz, 2H), 2.82 (tt, J=12.0, 3.6 Hz, 1H), 1.77-1.70 (m, 2H), 1.69-1.61 (m, 2H).

reactant | 2,6-dichloro-4-(tetrahydro-2H-pyran-4-yl)pyridine | 5.20 mmol, 1.20 g, 1.00 equiv | ClC1=NC(=CC(=C1)C1CCOCC1)Cl | C10H11Cl2NO
reactant | 2-aminopyridine-4-carbonitrile | 5.20 mmol, 620 mg, 1.00 equiv | NC1=NC=CC(=C1)C#N | C6H5N3
reactant | cesium carbonate | 7.20 mmol, 2.40 g, 1.40 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.260 mmol, 170 mg, 0.0500 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 2-((6-chloro-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 892 mg, 51% yield | ClC1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CCOCC1 | C16H15ClN4O
